US05064863
300 ml of 6-chlorohexanol were added to a solution of 602 mg of p-[(R)-2-[[(S)-2-hydroxy-3-phenoxypropyl]amino]propyl]phenol and 246 mg of potassium t-butylate in 10 ml of dimethylsulfoxide and the reaction mixture was stirred at 80° for 1 hour. The reaction mixture was evaporated in a high vacuum and the residue was chromatographed on silica gel with chloroform/n-propanol/saturated ammonia (1000:50:3), whereby there were obtained 500 mg of pure, amorphous 6-[p-[(R)-2-[[(S)-2-hydroxy-3-phenoxypropyl]amino]propyl]phenoxy]hexanol, [α]D20 =-21° (c=0.9 in methanol), ε222 =17230.

reactant | 6-chlorohexanol | 300 ml | ClCCCCCCO | C6H13ClO
reactant | p-[(R)-2-[[(S)-2-hydroxy-3-phenoxypropyl]amino]propyl]phenol | 602 mg | O[C@@H](CN[C@@H](CC1=CC=C(C=C1)O)C)COC1=CC=CC=C1 | C18H23NO3
solvent | dimethylsulfoxide | 10 ml | CS(=O)C | C2H6OS
product | 6-[p-[(R)-2-[[(S)-2-hydroxy-3-phenoxypropyl]amino]propyl]phenoxy]hexanol | O[C@@H](CN[C@@H](CC1=CC=C(OCCCCCCO)C=C1)C)COC1=CC=CC=C1 | C24H35NO4
